US08106077B2
To a room temperature solution of 6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-3-nitro-pyridine (2.78 g, 6.35 mmol) in EtOH/THF (1/1, 200 mL) is added platinum (II) oxide (144 mg, 0.636 mmol, 10 mol %). The mixture is stirred under an atmosphere of hydrogen gas. After 3 h, the reaction is filtered through diatomaceous earth. The filtrate is concentrated and the residue is chromatographed (SiO2 120 g, 0% to 30% EtOAc/Hexane to yield 6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-ylamine (2.28 g, 88%). 1H NMR (400 MHz, CDCl3) δ 7.57-7.51 (m, 2H), 7.46-7.38 (m, 2H), 6.92 (d, 1H, J=8.4 Hz), 6.26 (d, 1H, J=8.4 Hz), 5.25 (s, 2H), 3.29 (sept, 1H, J=7.0 Hz), 2.24 (s, 3H), 1.40 (d, 6H, J=7.0 Hz).

reactant | 6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-3-nitro-pyridine | 6.35 mmol, 2.78 g | C(C)(C)C1=C(N(N=N1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)[N+](=O)[O-] | C19H18F3N5O4
solvent | EtOH THF | 200 mL | CCO.C1CCOC1
catalyst | platinum (II) oxide | 0.636 mmol, 144 mg | [Pt]=O
product | 6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-ylamine | 2.28 g, 88% | C(C)(C)C1=C(N(N=N1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)N | C19H20F3N5O2
